US07994180B2
A flask was charged with 4-[2-(2-amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidine-5-yl)ethyl]benzoic acid (5.0 g; 93.85% purity HPLC) and water (30 ml), the pH was corrected to about 13 with a 2M sodium hydroxide solution in water, and complete dissolution was observed. The pH was then corrected to about 9 with a 1M hydrochloric acid solution in water, and abundant solid formation was observed. The resulting suspension was stirred at about 25° C. for 1 hour, the solid was collected by filtration and dried in an oven under vacuum to afford 4-[2-(2-amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidine-5-yl)ethyl]benzoic acid sodium salt as a white solid in 99.6% purity (HPLC).

reactant | 4-[2-(2-amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidine-5-yl)ethyl]benzoic acid | 5.0 g | NC=1NC(C2=C(N1)NC=C2CCC2=CC=C(C(=O)O)C=C2)=O | C15H14N4O3
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | 4-[2-(2-amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidine-5-yl)ethyl]benzoic acid sodium salt | [Na+].NC=1NC(C2=C(N1)NC=C2CCC2=CC=C(C(=O)[O-])C=C2)=O | InChI=1S/C15H14N4O3.Na/c16-15-18-12-11(13(20)19-15)10(7-17-12)6-3-8-1-4-9(5-2-8)14(21)22;/h1-2,4-5,7H,3,6H2,(H,21,22)(H4,16,17,18,19,20);/q;+1/p-1
